US09290476B2
(4-Chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(2,4-dimethyloxazol-5-yl)methanone
To a 100 mL flask containing (4-chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(2,4-dimethyloxazol-5-yl)methanol (960 mg, 2.01 mmol, Intermediate 51: step a) was added 1,4-dioxane (50 mL) and activated MnO2 (900 mg, 10.3 mmol) at room temperature. The mixture was heated to 85° C. in an aluminum heating mantle under a nitrogen atmosphere. After 60 minutes, the contents were filtered through Celite® while the solution is still warm and rinsed with THF, and concentrated to give an off white solid. The crude material was triturated with Et2O to give a white solid.

reactant | (4-chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(2,4-dimethyloxazol-5-yl)methanol | ClC1=C(C(=NC2=CC=C(C=C12)C(O)C1=C(N=C(O1)C)C)OC)CC1=CC=C(C=C1)C(F)(F)F | C24H20ClF3N2O3
reactant | aluminum | [Al] | Al
catalyst | MnO2 | 10.3 mmol, 900 mg | O=[Mn]=O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | (4-Chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(2,4-dimethyloxazol-5-yl)methanone | ClC1=C(C(=NC2=CC=C(C=C12)C(=O)C1=C(N=C(O1)C)C)OC)CC1=CC=C(C=C1)C(F)(F)F | C24H18ClF3N2O3
